US07968724B2
Step 3. Preparation of 4-methoxy-dibenzofuran-1-carbaldehyde
4-methoxy-dibenzofuran (3.07 g, 15.5 mmoles) is dissolved in DCM (50 mL) under nitrogen atmosphere. The solution is cooled to 0° C. and dichloromethyl-methyl ether (1.68 mL, 18.6 mmoles) and subsequently TiCl4 (1N solution in DCM, 18.6 mL, 18.6 mmoles) are added dropwise. The solution is stirred at 0° C. and the reaction is completed after 1 hour. The reaction mixture is poured into cold water and extracted with DCM. The combined organic layers are washed again with water and brine, dried over sodium sulphate and evaporated to dryness to give 3.54 g of crude compound. The reaction is repeated on additional 2.04 g of starting material to yield additional 2.51 g of crude compound. The two crude mixtures are combined and purified together by flash chromatography on SiO2 (eluent: gradient AcOEt/hexane from 10/90 to 20/80) to give 3.8 g of the desired compound.

reactant | 4-methoxy-dibenzofuran | 15.5 mmoles, 3.07 g | COC1=CC=CC2=C1OC1=C2C=CC=C1 | C13H10O2
reactant | dichloromethyl-methyl ether | 18.6 mmoles, 1.68 mL | ClC(Cl)OC | C2H4Cl2O
reactant | water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 18.6 mmoles, 1N, 18.6 mL | Cl[Ti](Cl)(Cl)Cl
product | 4-methoxy-dibenzofuran-1-carbaldehyde | 3.8 g | COC1=CC=C(C2=C1OC1=C2C=CC=C1)C=O | C14H10O3
